US09340527B2
4-ethylpiperidine-4-carboxylic acid (0.184 g, 1.17 mmol) was combined with 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (0.3 g, 0.9 mmol), Acetic acid (0.19 mL, 3.4 mmol) in Methanol (1.9 mL, 48 mmol) and stirred for 30 min. The reaction was then cooled to 0° C. on an icebath and sodium cyanoborohydride (90.9 mg, 1.4 mmol) was added. The reaction was then allowed to warm to room temperature while stirring overnight. Reaction was then concentrated to about 4-5 mL then purified directly via reverse phase chromatography (5-95% CH3CN/Water (0.1% TFA), C18, 150 mm). The product was then lyophilized to dryness to give 7 mg 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid as a white solid (2%). ESI-MS: 452 (M+1)+. 1H NMR (DMSO-d6, 400 MHz): δ (ppm) 7.75-8.00 (m, 3H), 7.47-7.61 (m, 1H), 7.43 (s, 1H), 7.07-7.28 (m, 1H), 4.44 (m, 3H), 3.29-3.54 (m, 2H), 2.74-3.03 (m, 2H), 2.20 (s, 3H), 1.64-1.98 (m, 3H), 1.02-1.65 (m, 9H), 0.89 (s, 9H), 0.76-0.83 (m, 3H).

reactant | 4-ethylpiperidine-4-carboxylic acid | 1.17 mmol, 0.184 g | C(C)C1(CCNCC1)C(=O)O | C8H15NO2
reactant | 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.9 mmol, 0.3 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | Acetic acid | 3.4 mmol, 0.19 mL | C(C)(=O)O | C2H4O2
reactant | Methanol | 48 mmol, 1.9 mL | CO | CH4O
reactant | sodium cyanoborohydride | 1.4 mmol, 90.9 mg | C(#N)[BH3-].[Na+]
product | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-4-ethyl-piperidine-4-carboxylic acid | 7 mg, 2% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)(C(=O)O)CC | C29H41NO3
